US04804668
p-Toluenesulfonyl chloride (860 mg) was added to a stirred suspension of 4-methyl-5-(4-pyridinyl)-thiazole-2-carboxamide (450 mg) in dry pyridine (5 ml) under ice-cooling, and the mixture was stirred at 90° C. for 21 hours. The mixture was evaporated to dryness, and the residue was dissolved 2N hydrochloric acid aqueous solution (10-15 ml), washed twice with chloroform, and made alkaline by addition of 2N sodium hydroxide aqueous solution. The resulting precipitates were extracted with chloroform, washed with water, dried over magnesium sulfate, and evaporated to dryness. The residue was washed with petroleum ether, and was recrystallized from iso-propanol (twice) to give 2-cyano-4-methyl-5-(4-pyridinyl)-thiazole (220 mg, yield 53%) as pale yellow needles.

reactant | p-Toluenesulfonyl chloride | 860 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 4-methyl-5-(4-pyridinyl)-thiazole-2-carboxamide | 450 mg | CC=1N=C(SC1C1=CC=NC=C1)C(=O)N | C10H9N3OS
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 2-cyano-4-methyl-5-(4-pyridinyl)-thiazole | 220 mg, yield 53% | C(#N)C=1SC(=C(N1)C)C1=CC=NC=C1 | C10H7N3S
